US07858640B2
(3-amino-4-chlorophenoxy)acetic Acid Methyl Ester
A solution of (4-chloro-3-nitrophenoxy)acetic acid methyl ester (30 g) in methanol (100 mL) was added to a mixture of iron (26 g), ammonium chloride (33 g) and water (400 mL) at room temperature. The resulting mixture was heated in an ultrasonic bath at 60° C. for 4 hours. The mixture was basified by the addition of sodium hydroxide and then extracted with ethyl acetate. The combined extracts were washed with 1.0 M aqueous hydrochloric acid and the pH of the combined aqueous phases were adjusted to 7-8 by the addition of sodium hydroxide. The resulting precipitate was collected by filtration and dried to afford title compound, 14 g.

reactant | (4-chloro-3-nitrophenoxy)acetic acid methyl ester | 30 g | COC(COC1=CC(=C(C=C1)Cl)[N+](=O)[O-])=O | C9H8ClNO5
reactant | ammonium chloride | 33 g | [Cl-].[NH4+]
reactant | water | 400 mL | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
catalyst | iron | 26 g | [Fe] | Fe
product | (3-amino-4-chlorophenoxy)acetic Acid Methyl Ester | COC(COC1=CC(=C(C=C1)Cl)N)=O | C9H10ClNO3
